US07977491B2
Synthesis [2-1]: Synthesis of 2-(4-formylphenyl)-1,3-dioxolane
To 134 g of terephthalaldehyde and 62 g of ethylene glycol, was added 400 mL of toluene, and then was added thereto 2 g of p-toluenesulfonic acid, to conduct dehydration reaction under azeotropic conditions. After the time when the reaction of water stopped in the reaction, the reaction liquid was heated under reflux for another 2 hours, followed by cooling. The resultant reaction liquid was poured into an aqueous sodium bicarbonate solution. The organic phase was concentrated, and then purified by silica gel column chromatography (yield amount 122 g, and yield 68.5%).

reactant | terephthalaldehyde | 134 g | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | ethylene glycol | 62 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-formylphenyl)-1,3-dioxolane | yield 68.5% | C(=O)C1=CC=C(C=C1)C1OCCO1 | C10H10O3
